US04810713
4-(Diphenylmethylene)-1-(3-phenoxypropyl)piperidine oxalate [1:1]
A mixture of 3.3 g (0.013 mole) of 4-diphenylmethylenepiperidine, 3.3 g (0.015 mole) of (3-bromopropoxy)benzene and 5.3 g (0.05 mole) of anhydrous sodium carbonate in 100 ml of 1-butanol was heated at reflux for 20 hr. The mixture was concentrated under reduced pressure and the residue was partitioned between water and benzene. The benzene layer was washed with water and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oil as residue, the free base of the title compound. The free base was converted to the oxalic acid salt and the solid was recrystallized from absolute ethanol to yield 4.3 g (70%) of the title product as a white powder, m.p. 175°-178° C.

reactant | 4-diphenylmethylenepiperidine | 0.013 mole, 3.3 g | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H19N
reactant | (3-bromopropoxy)benzene | 0.015 mole, 3.3 g | BrCCCOC1=CC=CC=C1 | C9H11BrO
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 4-(Diphenylmethylene)-1-(3-phenoxypropyl)piperidine oxalate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)C(=C1CCN(CC1)CCCOC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H29NO.C2H2O4/c1-4-11-23(12-5-1)27(24-13-6-2-7-14-24)25-17-20-28(21-18-25)19-10-22-29-26-15-8-3-9-16-26;3-1(4)2(5)6/h1-9,11-16H,10,17-22H2;(H,3,4)(H,5,6)
